US06265415B1
Synthesis of 3-carboethoxy-8-(dimethylbenzylamino)-2-methylimidazo[1,2-a]pyridine
A mixture of 8-amino-3-carboethoxy-2-methylimidazo[1,2-a]pyridine (6.08 g, 27.74 mmol), 2,6-dimethylbenzylchloride (4.5 g, 29.13 mmol), sodium carbonate (4.32 g, 43.7 mmol), sodium iodide (0.7 g) and acetone (120 ml) was stirred for 30 h and the crystalline product was filtered off. The yield was dissolved in dichloromethane filtered and the solvent was evaporated under reduced pressure to give the title product (7.0 g).

reactant | 8-amino-3-carboethoxy-2-methylimidazo[1,2-a]pyridine | 27.74 mmol, 6.08 g | NC=1C=2N(C=CC1)C(=C(N2)C)C(=O)OCC | C11H13N3O2
reactant | 2,6-dimethylbenzylchloride | 29.13 mmol, 4.5 g | CC1=C(CCl)C(=CC=C1)C | C9H11Cl
reactant | sodium carbonate | 43.7 mmol, 4.32 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 0.7 g | [I-].[Na+]
reactant | acetone | 120 ml | CC(=O)C | C3H6O
product | 3-carboethoxy-8-(dimethylbenzylamino)-2-methylimidazo[1,2-a]pyridine | 7.0 g | C(=O)(OCC)C1=C(N=C2N1C=CC=C2NC(C2=CC=CC=C2)(C)C)C | C20H23N3O2
